US07678820B2
N2-{[(5,6-Dichloropyridin-3-yl)carbonyl]oxy}-1H-indole-4-carboxamidine (1.91 g) was added to dioxane (40 ml), followed by heating under reflux for 5 hours. It was concentrated under reduced pressure, and then purified by silica gel column chromatography (EtOAc). To the obtained solid was added acetone, followed by suspension under heating. After being left to be cooled, the insolubles was collected by filtration to obtain 4-[5-(5,6-dichloropyridin-3-yl)-1,2,4-oxadiazol-3-yl]-1H-indole (1.44 g) as pale yellow powders.

reactant | N2-{[(5,6-Dichloropyridin-3-yl)carbonyl]oxy}-1H-indole-4-carboxamidine | 1.91 g | ClC=1C=C(C=NC1Cl)C(=O)ON=C(N)C=1C=2C=CNC2C=CC1 | C15H10Cl2N4O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-[5-(5,6-dichloropyridin-3-yl)-1,2,4-oxadiazol-3-yl]-1H-indole | 1.44 g | ClC=1C=C(C=NC1Cl)C1=NC(=NO1)C1=C2C=CNC2=CC=C1 | C15H8Cl2N4O
